US07629344B2
A mixture of (3-cyano-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid tert-butyl ester, hydroxylamine hydrochloride (8.28 g) and Et3N (22.6 mL) in EtOH (120 mL) was heated over night under N2 at 65° C. The resultant mixture was cooled to room temperature, filtered and the collected solid was washed with H2O (100 mL) and Et2O (50 mL×2) to afforded [3-(N-hydroxycarbamimidoyl)-pyrazolo[3,4-b]pyridin-1-yl]-acetic acid tert-butyl ester.

reactant | (3-cyano-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=2C1=NC=CC2)C#N)=O | C13H14N4O2
reactant | hydroxylamine hydrochloride | 8.28 g | Cl.NO
reactant | Et3N | 22.6 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 120 mL | CCO | C2H6O
product | [3-(N-hydroxycarbamimidoyl)-pyrazolo[3,4-b]pyridin-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=2C1=NC=CC2)C(NO)=N)=O | C13H17N5O3
